US05079248
(B) 2-[N-Methyl-N-(4-nitrophenethyl)amino]ethyl chloride hydrochloride
To a solution of 2-[N-methyl-N-(4-nitrophenethyl)amino]ethanol (8.0 g) in dry methylene chloride (75 ml) was added dropwise thionyl chloride (3ml) with stirring at 0° C. The mixture was allowed to warm to ambient temperature and stirred for 16 hours. The resultant solid was filtered, washed with dry ether and dried to give a colourless product (7.1 g). Crystallisation from ethyl acetate/methanol gave the title compound, 6.0 g, m.p. 168°-169°.

reactant | 2-[N-methyl-N-(4-nitrophenethyl)amino]ethanol | 8.0 g | CN(CCC1=CC=C(C=C1)[N+](=O)[O-])CCO | C11H16N2O3
reactant | thionyl chloride | 3ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
product | 2-[N-Methyl-N-(4-nitrophenethyl)amino]ethyl chloride hydrochloride | 7.1 g | Cl.CN(CCC1=CC=C(C=C1)[N+](=O)[O-])CCCl | InChI=1S/C11H15ClN2O2.ClH/c1-13(9-7-12)8-6-10-2-4-11(5-3-10)14(15)16;/h2-5H,6-9H2,1H3;1H
